US07989463B2
Step (iv): Synthesis of 1-[4-(2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid methyl ester
A mixture of 4-chloro-2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidine (4.2 g, 18.91 mmol) and 1-(4-amino-phenyl)-cyclopentanecarboxylic acid methyl ester (4.2 g, 19.1 mmol) in anhydrous isopropanol (50 mL) was heated at reflux in a nitrogen atmosphere for 8 to 18 hours. Thereafter, volatiles were evaporated under reduced pressure. The mixture was triturated with ether and filtered. The solid was dissolved in ethyl acetate and washed with 5% sodium bicarbonate and brine. The organic phase was dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a light yellow powder (7.1 g, 93.4% yield).

reactant | 4-chloro-2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidine | 18.91 mmol, 4.2 g | ClC1=NC(=NC2=C1CCC2)C2CCCC2 | C12H15ClN2
reactant | 1-(4-amino-phenyl)-cyclopentanecarboxylic acid methyl ester | 19.1 mmol, 4.2 g | COC(=O)C1(CCCC1)C1=CC=C(C=C1)N | C13H17NO2
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 1-[4-(2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid methyl ester | 7.1 g, 93.4% yield | COC(=O)C1(CCCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)C2CCCC2 | C25H31N3O2
